US06831079B1
3-Dimethylamino-1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-propen-1-one
A reaction mixture of 1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-ethanone (1.40 g), t-butoxy-bis-dimethylaminomethane (5.0 ml) and dichloromethane (10 ml) was stirred for 18 hours. The red-orange precipitate was filtered to yield the title compound (1.22 g), m.p. 203-205° C. Additional product (0.18 g) was isolated from the reaction mixture by concentration.

reactant | 1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-ethanone | 1.40 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)C(C)=O | C21H18N2O2
reactant | t-butoxy-bis-dimethylaminomethane | 5.0 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Dimethylamino-1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-propen-1-one | 1.22 g | CN(C=CC(=O)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C | C24H23N3O2
